US05118680
Preparation of benzyl 3-hydroxybenzothiophene-2-carboxylate
5 g (I5.8 mmol) of benzyl S-(2-carbomethoxyphenyl)-thioglycolate and 3 g (19.7 mmol) of diazabicycloundecene are heated under reflux in 100 ml of toluene. At the same time, about 50 ml of toluene are removed by distillation in the course of one hour. After cooling, the mixture is poured into 2 N HCl and extracted with CH2Cl2. The residue is purified by filtration through silica gel using toluene as the eluent.

reactant | benzyl S-(2-carbomethoxyphenyl)-thioglycolate | 5 g | C(=O)(OC)C1=C(C=CC=C1)SCC(=O)OCC1=CC=CC=C1 | C17H16O4S
reactant | diazabicycloundecene | 19.7 mmol, 3 g | C1(=NNCCCCCCCC1)C1=CCCCCCCCCC1 | C20H36N2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | benzyl 3-hydroxybenzothiophene-2-carboxylate | OC1=C(SC2=C1C=CC=C2)C(=O)OCC2=CC=CC=C2 | C16H12O3S
